US08008520B2
Preparation of Sodium Thiodecanoate.
Into a 2-liter round-bottomed flask was added 82 grams of sodium sulfide and 164 grams of water and the mixture was stirred at room temperature until the solids were dissolved. An excess of hydrogen sulfide was added below the surface until bubbling was seen in the trap. The reaction mixture was then cooled with an ice water bath to 17° C. Decanoyl chloride was then added slowly. Foaming was observed after about half of the decanoyl chloride had been added. At this point, the addition of decanoyl chloride was slowed and occasionally stopped to control foaming. The reactor temperature was kept at about 17° C. The decanoyl chloride addition was complete after a total of 2.5 hours. The pH of the resulting solution containing sodium thiodecanoate was measured with pH paper, giving an alkaline reading. An additional 2.7 grams of decanoyl chloride was then titrated into the solution to neutralize it, giving a final neutral pH reading.

reactant | sodium sulfide | 82 grams | [S-2].[Na+].[Na+]
reactant | hydrogen sulfide | S | H2S
reactant | decanoyl chloride | 2.7 grams | C(CCCCCCCCC)(=O)Cl | C10H19ClO
solvent | water | 164 grams | O | H2O
product | Sodium Thiodecanoate | C(CCCCCCCCC)(=S)[O-].[Na+] | InChI=1S/C10H20OS.Na/c1-2-3-4-5-6-7-8-9-10(11)12;/h2-9H2,1H3,(H,11,12);/q;+1/p-1
